US07666888B2
(5-Phenylisoxazol-4-yl)(3-(pyridin-3-yl)pyrrolidin-1-yl)methanone
To a 15 mL round-bottomed flask equipped with magnetic stirring was added 3-(pyrrolidin-3-yl)pyridine (250 mg, 1700 μmol, source: ASDI Inc.) and 4 mL of N-methylpyrrolidinone (NMP). 5-Phenylisoxazole-4-carboxylic acid (300 mg, 1600 μmol, source: CiVentiChem) was added followed by 1-hydroxybenzotriazole (250 mg, 1800 μmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (380 mg, 2000 μmol). Added 2 mL more NMP, and the reaction mixture was stirred at ambient temp. After 3 days, added 30 mL of water and extracted with EtOAc (3×15 mL). The organic layers were combined, washed with sat'd NaHCO3 and brine. The organic layers were then dried over MgSO4, filtered and concentrated in vacuo. The sample was absorbed onto silica gel and purified on a 40 g Isco Redi-sep® silica gel column that had been pre-equilibrated with CH2Cl2+2% MeOH. The product was eluted sample with CH2Cl2+2% (2M NH3 in MeOH). A viscous yellow oil was isolated as desired product (mass=260 mg). Mass Spec. m/z+ion=320.1.

reactant | 3-(pyrrolidin-3-yl)pyridine | 1700 μmol, 250 mg | N1CC(CC1)C=1C=NC=CC1 | C9H12N2
reactant | 5-Phenylisoxazole-4-carboxylic acid | 1600 μmol, 300 mg | C1(=CC=CC=C1)C1=C(C=NO1)C(=O)O | C10H7NO3
reactant | 1-hydroxybenzotriazole | 1800 μmol, 250 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2000 μmol, 380 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | water | 30 mL | O | H2O
solvent | NMP | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidinone | 4 mL | CN1C(CCC1)=O | C5H9NO
product | (5-Phenylisoxazol-4-yl)(3-(pyridin-3-yl)pyrrolidin-1-yl)methanone | 260 mg | C1(=CC=CC=C1)C1=C(C=NO1)C(=O)N1CC(CC1)C=1C=NC=CC1 | C19H17N3O2
